US06337034B1
To a mixture of 25.0 g (0.11 mol) of trans-4-propylcyclohexylmethyltriphenylphosphonium bromide and 100 ml of tetrahydrofuran (THF) was added 12.2 g (0.10 mol) of t-BuOK while maintaining a temperature of lower than −20° C., and stirred for 1 hour. Subsequently, 70 ml of solution of 12.9 g (0.10 mol) of 4-cyanobenzaldehyde in THF was added dropwise to the solution while maintaining a temperature of lower than −20° C., and stirred at the same temperature for 2 hours to react. After finishing of the reaction, 50 ml of water was added to the reaction product and then extracted with 100 ml of toluene. The organic layer thus obtained was washed with water thrice and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure, and the residue was subjected to silica gel column chromatography (eluent: toluene) to obtain 12.1 g of a crude 4-(2-(trans-4-propylcyclohexyl)vinyl)benzonitrile.

reactant | trans-4-propylcyclohexylmethyltriphenylphosphonium bromide | 0.11 mol, 25.0 g | [Br-].C(CC)[C@@H]1CC[C@H](CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 0.10 mol, 12.2 g | CC(C)(C)[O-].[K+]
reactant | 4-cyanobenzaldehyde | 0.10 mol, 12.9 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | water | 50 ml | O | H2O
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(2-(trans-4-propylcyclohexyl)vinyl)benzonitrile | 12.1 g | C(CC)[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C#N)C=C1 | C18H23N
